US07427612B2
(b) 4-(4-Dimethylamino-[1,3,5]triazin-2-yl)-piperazine-1-carboxylic acid tert-butyl ester
A solution of 2 mmol of 4-(4-Chloro-[1,3,5]triazin-2-yl)-piperazine-1-carboxylic acid tert-butyl ester in 15 ml of 2M dimethylamine in methanol was stirred at room temperature for 1 hour. Concentration and purification by chromatography (SiO2; ethyl acetate/cyclohexane 1:1) yielded the title compound as a colorless solid. MS (m/e): 309.1 (MH+, 100%)

reactant | 4-(4-Chloro-[1,3,5]triazin-2-yl)-piperazine-1-carboxylic acid tert-butyl ester | 2 mmol | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=NC(=N1)Cl | C12H18ClN5O2
reactant | dimethylamine | 2M, 15 ml | CNC | C2H7N
solvent | methanol | CO | CH4O
product | 4-(4-Dimethylamino-[1,3,5]triazin-2-yl)-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=NC(=N1)N(C)C | C14H24N6O2
